### PR TITLE
[Merged by Bors] - feat: Right exactness of tensor product of modules

### PR DESCRIPTION
**Pull request by AntoineChambert-Loir**
---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/LinearAlgebra/TensorProduct/RightExactness.lean [hunk 1]
```diff
@@ -0,0 +1,318 @@
...
+
+* Treat the case of semirings (need to know what a short exact sequence is)
+
+-/
+
+
+namespace AddMonoidHom
+
+def Exact {M N P : Type _} [AddCommGroup M] [AddCommGroup N] [AddCommGroup P]
+  (f : outParam (M →+ N)) (g : outParam (N →+ P)) :=
```
[the remark this answers is not in the document]
Comment (AntoineChambert-Loir) [reply Mathlib/LinearAlgebra/TensorProduct/RightExactness.lean:41]: Probably ridiculous attempt to state something that would work for classes of maps.

File: Mathlib/LinearAlgebra/TensorProduct/RightExactness.lean [hunk 2]
```diff
@@ -0,0 +1,318 @@
...
+  g.ker = f.range
```
[the remark this answers is not in the document]
Comment (AntoineChambert-Loir) [reply Mathlib/LinearAlgebra/TensorProduct/RightExactness.lean:42]: Yes, I'll rewrite this, but what if one needs later an actual equality (eg in the final theorem)? 
Would it deserve to be stated explicitly?

File: Mathlib/LinearAlgebra/TensorProduct/RightExactness.lean [hunk 3]
```diff
@@ -0,0 +1,318 @@
...
+      simp only [lTensor_tmul]
+  | Cp x y hx hy =>
+      obtain ⟨x, rfl⟩ := hx
+      obtain ⟨y, rfl⟩ := hy
+      use x + y
+      rw [map_add]
+
+private noncomputable
+def lTensor.inverse_aux (q : Q) : P →ₗ[R] Q ⊗[R] N ⧸ (LinearMap.range (lTensor Q f)) := {
+  toFun := fun p ↦ Submodule.Quotient.mk (q ⊗ₜ[R] (hg p).choose)
```
[the remark this answers is not in the document]
Comment (AntoineChambert-Loir) [reply Mathlib/LinearAlgebra/TensorProduct/RightExactness.lean:220]: Yes, certainly. And this look it will be cleaner.

File: Mathlib/LinearAlgebra/TensorProduct/RightExactness.lean (hunk 2 above)
[the remark this answers is not in the document]
Comment (eric-wieser) [reply Mathlib/LinearAlgebra/TensorProduct/RightExactness.lean:42]: I think you then have `LinearMap.exact_iff` and `Exact.linearMap_ker_eq` lemmas to help go back and forth, and same for `AddMonoidHom`. It doesn't help much with lemma duplication, but it does at least prevent the definition being duplicated.

File: Mathlib/LinearAlgebra/TensorProduct/RightExactness.lean [hunk 4]
```diff
@@ -0,0 +1,318 @@
...
+
+variable (Q : Type _) [AddCommGroup Q] [Module R Q]
+
+variable (g)
+lemma rTensor.mem_range {p : P} {q : Q} (hp : p ∈ LinearMap.range g) :
+  p ⊗ₜ[R] q ∈  LinearMap.range (rTensor Q g) := by
+  simp only [mem_range] at hp ⊢
+  obtain ⟨n, rfl⟩ := hp
+  use n ⊗ₜ[R] q
+  simp only [rTensor_tmul]
```
Comment (eric-wieser) [inline Mathlib/LinearAlgebra/TensorProduct/RightExactness.lean:88]: I think a nicer statement is something like:
```lean
lemma le_comap_range_lTensor (q : Q) :
    LinearMap.range g ≤ (LinearMap.range (lTensor Q g)).comap (TensorProduct.mk R Q P q) := by
  rintro x ⟨n, rfl⟩
  exact ⟨q ⊗ₜ[R] n, rfl⟩

lemma lTensor.mem_range {p : P} (q : Q) (hp : p ∈ LinearMap.range g) :
    q ⊗ₜ[R] p ∈  LinearMap.range (lTensor Q g) := le_comap_range_lTensor g q hp
```
where I'd recommend dropping the second lemma unless you really need it.

File: Mathlib/LinearAlgebra/TensorProduct/RightExactness.lean [hunk 5]
```diff
@@ -0,0 +1,318 @@
...
+  map_smul' := fun r z ↦ by
+    dsimp
+    rw [← Submodule.Quotient.mk_smul, Submodule.Quotient.eq, hfg, mem_ker]
+    simp only [map_sub, map_smul, Exists.choose_spec (hg _), sub_self] } -/
+
+private noncomputable
+def rTensor.inverse : P ⊗[R] Q →ₗ[R] N ⊗[R] Q ⧸ (LinearMap.range (rTensor Q f)) := by
+  apply TensorProduct.lift
+  exact {
+    toFun := fun z ↦ {
```
Comment (eric-wieser) [inline Mathlib/LinearAlgebra/TensorProduct/RightExactness.lean:125]: `LinearMap.mk\2` can make this a bit shorter

File: Mathlib/LinearAlgebra/TensorProduct/RightExactness.lean (hunk 3 above)
[the remark this answers is not in the document]
Comment (AntoineChambert-Loir) [reply Mathlib/LinearAlgebra/TensorProduct/RightExactness.lean]: Done.

File: Mathlib/LinearAlgebra/TensorProduct/RightExactness.lean (hunk 4 above)
Comment (AntoineChambert-Loir) [reply Mathlib/LinearAlgebra/TensorProduct/RightExactness.lean]: Done.

File: Mathlib/LinearAlgebra/TensorProduct/RightExactness.lean (hunk 5 above)
Comment (AntoineChambert-Loir) [reply Mathlib/LinearAlgebra/TensorProduct/RightExactness.lean]: Indeed, thanks!

File: Mathlib/LinearAlgebra/TensorProduct/RightExactness.lean (hunk 1 above)
[the remark this answers is not in the document]
Comment (eric-wieser) [reply Mathlib/LinearAlgebra/TensorProduct/RightExactness.lean:41]: Right now it does nothing at all.

File: Mathlib/LinearAlgebra/TensorProduct/RightExactness.lean [hunk 6]
```diff
@@ -0,0 +1,311 @@
...
+      obtain ⟨y, rfl⟩ := hy
+      use x + y
+      rw [map_add]
+
+private noncomputable
+def rTensor.inverse_ofRightInverse {h : P → N} (hgh : Function.RightInverse h g) :
+  P ⊗[R] Q →ₗ[R] N ⊗[R] Q ⧸ (LinearMap.range (rTensor Q f)) := by
+  apply TensorProduct.lift
+  apply LinearMap.mk₂ R (fun p q ↦ Submodule.Quotient.mk (h p ⊗ₜ[R] q))
+  . intro p p' q
```
Comment (eric-wieser) [inline Mathlib/LinearAlgebra/TensorProduct/RightExactness.lean:125]:
```suggestion
  · intro p p' q
```
and below, will fix the errors.

File: Mathlib/LinearAlgebra/TensorProduct/RightExactness.lean (hunk 2 above)
[the remark this answers is not in the document]
Comment (AntoineChambert-Loir) [reply Mathlib/LinearAlgebra/TensorProduct/RightExactness.lean]: I tried something, but it does not work some well.

File: Mathlib/LinearAlgebra/TensorProduct/RightExactness.lean (hunk 1 above)
[the remark this answers is not in the document]
Comment (AntoineChambert-Loir) [reply Mathlib/LinearAlgebra/TensorProduct/RightExactness.lean]: As I wrote below, I tried something but it does not work so well.
What I expected to build is a definition of Exact that works for all kind of additive maps.
Now, with your suggestion of defining Exact as `forall y, …`, I cannot manage to evaluate it as a LinearMap…
What do I do wrong?

File: Mathlib/LinearAlgebra/TensorProduct/RightExactness.lean (hunk 6 above)
Comment (AntoineChambert-Loir) [reply Mathlib/LinearAlgebra/TensorProduct/RightExactness.lean]: Thanks ! (I definitely hate it that \cdot, \centerdot and . give seemingly looking results while only one of them is admitted.)

File: Mathlib/LinearAlgebra/TensorProduct/RightExactness.lean (hunk 1 above)
[the remark this answers is not in the document]
Comment (eric-wieser) [reply Mathlib/LinearAlgebra/TensorProduct/RightExactness.lean]: You need to define it as `∀x, g x = 0 ↔ x ∈ set.range f` where `f` and `g` are just plain functions. You can't use `ker` and `range` in the definition, as those only work on specific types of map.

File: Mathlib/LinearAlgebra/TensorProduct/RightExactness.lean (hunk 2 above)
[the remark this answers is not in the document]
Comment (AntoineChambert-Loir) [reply Mathlib/LinearAlgebra/TensorProduct/RightExactness.lean]: I did that finally, using the [Zero _] Typeclass.

File: Mathlib/LinearAlgebra/TensorProduct/RightExactness.lean [hunk 7]
```diff
@@ -0,0 +1,329 @@
...
+variable {f : M →ₗ[R] N} {g : N →ₗ[R] P}
+
+variable (Q : Type _) [AddCommGroup Q] [Module R Q]
+
+variable (hfg : Exact f g) (hg : Function.Surjective g)
+
+private noncomputable
+def rTensor.inverse_ofRightInverse {h : P → N} (hgh : Function.RightInverse h g) :
+  P ⊗[R] Q →ₗ[R] N ⊗[R] Q ⧸ (LinearMap.range (rTensor Q f)) := by
+  rw [exact_iff] at hfg
```
Comment (eric-wieser) [inline Mathlib/LinearAlgebra/TensorProduct/RightExactness.lean:156]: A general style comment
```suggestion
def rTensor.inverse_ofRightInverse {h : P → N} (hgh : Function.RightInverse h g) :
    P ⊗[R] Q →ₗ[R] N ⊗[R] Q ⧸ (LinearMap.range (rTensor Q f)) := by
  rw [exact_iff] at hfg
```
and throughout

File: Mathlib/LinearAlgebra/TensorProduct/RightExactness.lean [hunk 8]
```diff
@@ -0,0 +1,329 @@
...
+  [AddCommGroup M] [AddCommGroup N] [AddCommGroup P]
+  [Module R M] [Module R N] [Module R P]
+
+variable {f : M →ₗ[R] N} {g : N →ₗ[R] P}
+
+variable (Q : Type _) [AddCommGroup Q] [Module R Q]
+
+variable (hfg : Exact f g) (hg : Function.Surjective g)
+
+private noncomputable
```
Comment (eric-wieser) [inline Mathlib/LinearAlgebra/TensorProduct/RightExactness.lean:153]:
```suggestion
private
```

File: Mathlib/LinearAlgebra/TensorProduct/RightExactness.lean (hunk 7 above)
Comment (AntoineChambert-Loir) [reply Mathlib/LinearAlgebra/TensorProduct/RightExactness.lean:156]: OK, I had (apparently wrongly) understood that hypotheses had a 4 char indent, but the goal only 2. I'll fix that.

File: Mathlib/LinearAlgebra/TensorProduct/RightExactness.lean [hunk 9]
```diff
@@ -0,0 +1,329 @@
...
+      rw [← hfg, mem_ker, map_sub]
+      simp only [hgh _, sub_self] }
+  · intro r p q
+    simp only [TensorProduct.tmul_smul, Submodule.Quotient.mk_smul]
+
+private noncomputable
+def rTensor.inverse :
+  P ⊗[R] Q →ₗ[R] N ⊗[R] Q ⧸ (LinearMap.range (rTensor Q f)) :=
+  rTensor.inverse_ofRightInverse Q hfg
+    (Function.Surjective.hasRightInverse hg).choose_spec
```
Comment (eric-wieser) [inline Mathlib/LinearAlgebra/TensorProduct/RightExactness.lean:188]:
```suggestion
  rTensor.inverse_ofRightInverse Q hfg
    (Function.rightInverse_surjInv hg)
```
which requires a very minor tweak to a later proof

File: Mathlib/LinearAlgebra/TensorProduct/RightExactness.lean [hunk 10]
```diff
@@ -0,0 +1,346 @@
...
+
+* `TensorProduct.lTensor_exact` says that one can tensor a short exact sequence on the left
+
+* For `N : Submodule R M`, `LinearMap.exact_subtype_mkQ N` says that the inclusion of the submodule and the quotient map form an exact pair,
+and `lTensor_mkQ` compute `ker (lTensor Q (N.mkQ))` and similarly for `rTensor_mkQ`
+
+* `TensorProduct.map_ker` computes the kernel of `TensorProduct.map g g'`
+in the presence of two short exact sequences.
+
+The proofs are those of Bourbaki, Algèbre, chap. 2, §3, n°6
```
Comment (eric-wieser) [inline Mathlib/LinearAlgebra/TensorProduct/RightExactness.lean:26]: Is this already in references.bib?

File: Mathlib/LinearAlgebra/TensorProduct/RightExactness.lean [hunk 11]
```diff
@@ -0,0 +1,346 @@
...
+* Special case for short exact sequences of the form `M → N → N/M → 0`
+
+* Analogue for morphisms of algebras
+
+* Treat the noncommutative case
+
+* Treat the case of modules over semirings
+(For a possible definition of an exact sequence of semigroups (that encompasses the case of noncommutative add_monoids!), see
+Pierre-Antoine Grillet, *The tensor product of commutative semigroups*,
+Trans. Amer. Math. Soc. 138 (1969), 281-293, doi:10.1090/S0002-9947-1969-0237688-1 )
```
Comment (eric-wieser) [inline Mathlib/LinearAlgebra/TensorProduct/RightExactness.lean:41]: This should go in `references.bib`

File: Mathlib/LinearAlgebra/TensorProduct/RightExactness.lean [hunk 12]
```diff
@@ -0,0 +1,346 @@
...
+
+-/
+
+section Exact
+
+variable {M N P : Type _} (f : M → N) (g : N → P)
+
+def Exact [Zero P] := ∀ y, g y = 0 ↔ y ∈ Set.range f
```
Comment (eric-wieser) [inline Mathlib/LinearAlgebra/TensorProduct/RightExactness.lean:49]:
```suggestion
def Exact [Zero P] : Prop := ∀ y, g y = 0 ↔ y ∈ Set.range f
```

File: Mathlib/LinearAlgebra/TensorProduct/RightExactness.lean (hunk 10 above)
Comment (AntoineChambert-Loir) [reply Mathlib/LinearAlgebra/TensorProduct/RightExactness.lean:26]: No!

File: Mathlib/LinearAlgebra/TensorProduct/RightExactness.lean (hunk 11 above)
Comment (AntoineChambert-Loir) [reply Mathlib/LinearAlgebra/TensorProduct/RightExactness.lean]: Added.

File: Mathlib/LinearAlgebra/TensorProduct/RightExactness.lean (hunk 7 above)
Comment (AntoineChambert-Loir) [reply Mathlib/LinearAlgebra/TensorProduct/RightExactness.lean]: Done.

File: Mathlib/LinearAlgebra/TensorProduct/RightExactness.lean (hunk 9 above)
Comment (AntoineChambert-Loir) [reply Mathlib/LinearAlgebra/TensorProduct/RightExactness.lean]: Done!

File: Mathlib/LinearAlgebra/TensorProduct/RightExactness.lean (hunk 10 above)
Comment (AntoineChambert-Loir) [reply Mathlib/LinearAlgebra/TensorProduct/RightExactness.lean]: Added.

File: Mathlib/LinearAlgebra/TensorProduct/RightExactness.lean (hunk 8 above)
Comment (AntoineChambert-Loir) [reply Mathlib/LinearAlgebra/TensorProduct/RightExactness.lean]: Done (also for the other one)

**Comment by AntoineChambert-Loir** [comment]
Remaining questions:
- add the algebra case now or later?
- what about the namespaces and, more generally, the names of all theorems?

File: Mathlib/LinearAlgebra/TensorProduct/RightExactness.lean [hunk 13]
```diff
@@ -0,0 +1,358 @@
...
+variable {R : Type _} [CommSemiring R]
+variable {M N P : Type _}
+  [AddCommMonoid M] [AddCommMonoid N] [AddCommMonoid P]
+  [Module R M] [Module R N] [Module R P]
+
+variable {f : M →ₗ[R] N} {g : N →ₗ[R] P}
+
+lemma Exact.linearMap_ker_eq (hfg : Exact f g) : ker g = range f := by
+  ext y
+  exact hfg y
```
Comment (eric-wieser) [inline Mathlib/LinearAlgebra/TensorProduct/RightExactness.lean:68]: I would guess
```suggestion
lemma Exact.linearMap_ker_eq (hfg : Exact f g) : ker g = range f := SetLike.ext hfg
```
(untested)

File: Mathlib/LinearAlgebra/TensorProduct/RightExactness.lean [hunk 14]
```diff
@@ -0,0 +1,358 @@
...
+
+lemma LinearMap.exact_iff : Exact f g ↔ LinearMap.ker g = LinearMap.range f := by
+  constructor
+  · intro h; apply Exact.linearMap_ker_eq; exact h
+  · intro h y; rw [← mem_ker, h]; rfl
```
Comment (eric-wieser) [inline Mathlib/LinearAlgebra/TensorProduct/RightExactness.lean:73]: I think this is `SetLike.ext_iff.symm`

File: Mathlib/LinearAlgebra/TensorProduct/RightExactness.lean [hunk 15]
```diff
@@ -0,0 +1,358 @@
...
+
+lemma le_comap_range_rTensor (q : Q) :
+    LinearMap.range g ≤ (LinearMap.range (rTensor Q g)).comap
+      ((TensorProduct.mk R P Q).flip q) := by
+  rintro x ⟨n, rfl⟩
+  exact ⟨n ⊗ₜ[R] q, rfl⟩
+
+variable (Q) {g}
+
+theorem rTensor.Surjective (hg : Function.Surjective g) :
```
Comment (eric-wieser) [inline Mathlib/LinearAlgebra/TensorProduct/RightExactness.lean:114]: I think the naming guide would suggest
```suggestion
theorem rTensor_surjective (hg : Function.Surjective g) :
```

File: Mathlib/LinearAlgebra/TensorProduct/RightExactness.lean (hunk 14 above)
Comment (AntoineChambert-Loir) [reply Mathlib/LinearAlgebra/TensorProduct/RightExactness.lean]: this is almost that, but `exact…` does not work.

File: Mathlib/LinearAlgebra/TensorProduct/RightExactness.lean (hunk 15 above)
Comment (AntoineChambert-Loir) [reply Mathlib/LinearAlgebra/TensorProduct/RightExactness.lean:112]: I make the change, but what about `Function.Surjective` (with a capital S)?

Comment (alreadydone) [reply Mathlib/LinearAlgebra/TensorProduct/RightExactness.lean]: `Function.Surjective` is a type (Prop) while `rTensor_surjective` is a term (proof) of that type.

**Comment by AntoineChambert-Loir** [comment]
Thanks for these adjustments.
Should the definitions of `lTensor.inverse`etc. be private? 
I had commented out the tag because I was using them in another file.

File: Mathlib/LinearAlgebra/TensorProduct/RightExactness.lean [hunk 16]
```diff
@@ -0,0 +1,324 @@
...
+  · intro r p q
+    rw [← Submodule.Quotient.mk_smul, Submodule.Quotient.eq]
+    rw [TensorProduct.smul_tmul', ← TensorProduct.sub_tmul]
+    apply le_comap_range_rTensor f
+    rw [← hfg, mem_ker, map_sub, map_smul]
+    simp only [hgh _, sub_self]
+  · intro p q q'
+    rw [TensorProduct.tmul_add, ← Submodule.Quotient.mk_add]
+  · intro r p q
+    simp only [TensorProduct.tmul_smul, Submodule.Quotient.mk_smul]
```
Comment (eric-wieser) [inline Mathlib/LinearAlgebra/TensorProduct/RightExactness.lean:173]: What do you think of:
```suggestion
  rw [exact_iff] at hfg
  refine
    TensorProduct.lift
      { toFun := fun p ↦ Submodule.mkQ _ ∘ₗ TensorProduct.mk R _ _ (h p)
        map_add' := fun p p' => LinearMap.ext <| fun q => (Submodule.Quotient.eq _).mpr ?_
        map_smul' := fun r p => LinearMap.ext <| fun q => (Submodule.Quotient.eq _).mpr ?_ }
  · change h (p + p') ⊗ₜ[R] q - (h p ⊗ₜ[R] q + h p' ⊗ₜ[R] q) ∈ range (rTensor Q f)
    rw [← TensorProduct.add_tmul, ← TensorProduct.sub_tmul]
    apply le_comap_range_rTensor f
    rw [← hfg, mem_ker, map_sub, map_add]
    simp only [hgh _, sub_self]
  · change h (r • p) ⊗ₜ[R] q - r • h p ⊗ₜ[R] q ∈ range (rTensor Q f)
    rw [TensorProduct.smul_tmul', ← TensorProduct.sub_tmul]
    apply le_comap_range_rTensor f
    rw [← hfg, mem_ker, map_sub, map_smul]
    simp only [hgh _, sub_self]
```
I think this makes it a bit clearer that half of the linearity is obvious, while the other half needs exactness

Comment (AntoineChambert-Loir) [reply Mathlib/LinearAlgebra/TensorProduct/RightExactness.lean:173]: For me, it's harder to read, but OK.

**Comment by AntoineChambert-Loir** [comment]
Each of the maps `rTensor.inverse` and `lTensor.inverse` is actually part of  linear_equiv which is easy to define from this, and gives an obvious understanding of the exactness. Should I add this ?

**Comment by AntoineChambert-Loir** [comment]
(It remains to do the same for lTensor)

**Comment by AntoineChambert-Loir** [comment]
Also : I can prove the result for algebras. It uses the result for submodules plus something like the thing I posted on Zulip. If that thing can be cleaned up quickly, then it is worth being added now.

File: Mathlib/LinearAlgebra/TensorProduct/RightExactness.lean (hunk 16 above)
Comment (AntoineChambert-Loir) [reply Mathlib/LinearAlgebra/TensorProduct/RightExactness.lean]: Do you want me to update the second definition in the same way?

Comment (eric-wieser) [reply Mathlib/LinearAlgebra/TensorProduct/RightExactness.lean]: I'm happy to leave this for another reviewer to tie break if you don't like it.

Comment (AntoineChambert-Loir) [reply Mathlib/LinearAlgebra/TensorProduct/RightExactness.lean]: That's OK. That's actually good to be able to adjust to other people's stylistic habits.

File: Mathlib/LinearAlgebra/TensorProduct/RightExactness.lean [hunk 17]
```diff
@@ -0,0 +1,550 @@
+/-
+Copyright (c) 2023 Antoine Chambetr-Loir. All rights reserved.
```
Comment (joelriou) [inline Mathlib/LinearAlgebra/TensorProduct/RightExactness.lean:2]:
```suggestion
Copyright (c) 2023 Antoine Chambert-Loir. All rights reserved.
```

File: Mathlib/LinearAlgebra/TensorProduct/RightExactness.lean (hunk 16 above)
Comment (AntoineChambert-Loir) [reply Mathlib/LinearAlgebra/TensorProduct/RightExactness.lean]: I made the effort of writing the other proof — that helped me appreciate this style.

File: Mathlib/LinearAlgebra/TensorProduct/RightExactness.lean [hunk 18]
```diff
@@ -0,0 +1,648 @@
...
+  rw [exact_iff] at hfg
+  apply LinearMap.congr_fun
+  apply TensorProduct.ext'
+  intro n q
+  simp only [coe_comp, Function.comp_apply, rTensor_tmul, Submodule.mkQ_apply]
+  simp only [rTensor.inverse_ofRightInverse]
+  simp only [TensorProduct.lift.tmul, coe_mk, AddHom.coe_mk, mk₂_apply]
+  simp only [coe_comp, Function.comp_apply, mk_apply, Submodule.mkQ_apply]
+  rw [Submodule.Quotient.eq]
+  rw [← TensorProduct.sub_tmul]
```
Comment (kbuzzard) [inline Mathlib/LinearAlgebra/TensorProduct/RightExactness.lean:209]:
```suggestion
  rw [Submodule.Quotient.eq, ← TensorProduct.sub_tmul]
```
no reason why not, I guess.

File: Mathlib/LinearAlgebra/TensorProduct/RightExactness.lean [hunk 19]
```diff
@@ -0,0 +1,648 @@
...
+    (rTensor.inverse Q hfg hg).comp (rTensor Q g) =
+      Submodule.mkQ (p := LinearMap.range (rTensor Q f)) := by
+  rw [LinearMap.ext_iff]
+  intro y
+  simp only [coe_comp, Function.comp_apply, Submodule.mkQ_apply, rTensor.inverse_apply]
+
+/-- For a surjective `f : N →ₗ[R] P`,
+  the natural equivalence between `N ⊗[R] Q ⧸ (image of ker f)` to `P ⊗[R] Q`
+  (computably, given a left inverse) -/
+def rTensor.equiv_ofRightInverse
```
Comment (kbuzzard) [inline Mathlib/LinearAlgebra/TensorProduct/RightExactness.lean:234]: I never remember which is the left inverse and which is the right inverse but given that you've called this function `...ofRightInverse` I'm surprised you're talking about left inverse in the docstring.

I think it should be called `def rTensor.linearEquiv_of_rightInverse` though?

File: Mathlib/LinearAlgebra/TensorProduct/RightExactness.lean [hunk 20]
```diff
@@ -0,0 +1,648 @@
...
+    {h : P → N} (hgh : Function.RightInverse h g) :
+    ((N ⊗[R] Q) ⧸ (LinearMap.range (rTensor Q f))) ≃ₗ[R] (P ⊗[R] Q) := {
+  rTensor.toFun Q hfg with
```
Comment (kbuzzard) [inline Mathlib/LinearAlgebra/TensorProduct/RightExactness.lean:237]: This `with` adds a horrible `let src := ...` in Lean 4 which can sometimes cause tremendous slowdowns, but I don't know if this will be the case here (certainly the file seems to compile quickly enough...). You could ask Eric or Matt Ballard about the dangers of this one.

File: Mathlib/LinearAlgebra/TensorProduct/RightExactness.lean [hunk 21]
```diff
@@ -0,0 +1,648 @@
...
+    obtain ⟨y, rfl⟩ := rTensor.surjective Q hgh.surjective z
+    rw [rTensor.inverse_ofRightInverse_apply]
+    simp only [rTensor.toFun, Submodule.liftQ_apply] }
+
+/-- For a surjective `f : N →ₗ[R] P`,
+  the natural equivalence between `N ⊗[R] Q ⧸ (image of ker f)` to `P ⊗[R] Q` -/
+noncomputable def rTensor.equiv :
+    ((N ⊗[R] Q) ⧸ (LinearMap.range (rTensor Q f))) ≃ₗ[R] (P ⊗[R] Q) :=
+  rTensor.equiv_ofRightInverse Q hfg (Function.rightInverse_surjInv hg)
+
```
Comment (kbuzzard) [inline Mathlib/LinearAlgebra/TensorProduct/RightExactness.lean:254]:
```suggestion
```

File: Mathlib/LinearAlgebra/TensorProduct/RightExactness.lean [hunk 22]
```diff
@@ -0,0 +1,648 @@
...
+-/
+
+section Exact
+
+variable {M N P : Type*} (f : M → N) (g : N → P)
+
+/-- The maps `f` and `g` form an exact pair :
+  `g y = 0` iff `y` belongs to the image of `f` -/
+def Exact [Zero P] : Prop := ∀ y, g y = 0 ↔ y ∈ Set.range f
```
Comment (jcommelin) [inline Mathlib/LinearAlgebra/TensorProduct/RightExactness.lean:59]: Two questions:

1. Should this definition `Exact` be in the root namespace? (I don't have a good suggestion for a namespace atm, but it feels like the name is too generic to go in root.)
2. Should this definition be in a file called `RightExactness.lean` in a folder on tensor products? It seems likely that files might want to import the definition of exactness without wanting to import tensor products. So I think it makes sense to split this file into two.

File: Mathlib/LinearAlgebra/TensorProduct/RightExactness.lean [hunk 23]
```diff
@@ -0,0 +1,648 @@
...
+
+lemma le_comap_range_rTensor (q : Q) :
+    LinearMap.range g ≤ (LinearMap.range (rTensor Q g)).comap
+      ((TensorProduct.mk R P Q).flip q) := by
+  rintro x ⟨n, rfl⟩
+  exact ⟨n ⊗ₜ[R] q, rfl⟩
+
+variable (Q) {g}
+
+/-- If `g` is surjective, then `rTensor Q g` is surjective -/
```
Comment (jcommelin) [inline Mathlib/LinearAlgebra/TensorProduct/RightExactness.lean:114]: Silly nitpick: should we try to always have the statement about `lTensor` first, and then the one for `rTensor`? (Or vice versa, I just picked the order that was used above for `le_comap_range_{l,r}Tensor`.)

Can you easily deduce one from the other, using commutativity of the tensor product? Or does that quickly become a nasty mess?

File: Mathlib/LinearAlgebra/TensorProduct/RightExactness.lean [hunk 24]
```diff
@@ -0,0 +1,648 @@
...
+  simp only [lTensor.inverse, lTensor.inverse_ofRightInverse_apply]
+
+lemma lTensor.inverse_comp_rTensor :
+    (lTensor.inverse Q hfg hg).comp (lTensor Q g) =
+      Submodule.mkQ (p := LinearMap.range (lTensor Q f)) := by
+  rw [lTensor.inverse, lTensor.inverse_ofRightInverse_comp_rTensor]
+
+/-- For a surjective `f : N →ₗ[R] P`,
+  the natural equivalence between `Q ⊗ N ⧸ (image of ker f)` to `Q ⊗ P`
+  (computably, given a left inverse) -/
```
Comment (kbuzzard) [inline Mathlib/LinearAlgebra/TensorProduct/RightExactness.lean:347]: left -> right?

File: Mathlib/LinearAlgebra/TensorProduct/RightExactness.lean [hunk 25]
```diff
@@ -0,0 +1,648 @@
...
+def lTensor.equiv_ofRightInverse {h : P → N} (hgh : Function.RightInverse h g) :
+    ((Q ⊗[R] N) ⧸ (LinearMap.range (lTensor Q f))) ≃ₗ[R] (Q ⊗[R] P) := {
+  lTensor.toFun Q hfg with
```
Comment (kbuzzard) [inline Mathlib/LinearAlgebra/TensorProduct/RightExactness.lean:350]: again I am slightly scared about the `with` but I would defer to Eric or Matt.

File: Mathlib/LinearAlgebra/TensorProduct/RightExactness.lean [hunk 26]
```diff
@@ -0,0 +1,648 @@
...
+    Submodule.map_top]
+  rw [← LinearMap.lTensor_comp_rTensor, LinearMap.range_eq_map, Submodule.map_comp,
+    Submodule.map_top]
+  rw [LinearMap.range_eq_top.mpr (rTensor.surjective M' hg), Submodule.map_top]
+  rw [Exact.linearMap_ker_eq (lTensor_exact P hfg' hg')]
+
+end Modules
+
+
+--  -·⬝.∙.⬝·-·⬝.∙.⬝·-
```
Comment (kbuzzard) [inline Mathlib/LinearAlgebra/TensorProduct/RightExactness.lean:415]: Did you mean to leave this morse code here?

File: Mathlib/LinearAlgebra/TensorProduct/RightExactness.lean [hunk 27]
```diff
@@ -0,0 +1,648 @@
...
+    {R : Type _} [CommSemiring R]
+    {A B : Type _} [Semiring A] [Semiring B] [Algebra R A] [Algebra R B]
+
+/- The following lemmas could be easier if `I ⊗[R] B` was naturally an `A ⊗[R] B` module,
+  and the map to `A ⊗[R] B` was known to be linear.
+  This depends on the B-module structure on a tensor product
+  whose use rapidly conflicts with
+  everything… -/
+
+/-- The ideal of A ⊗[R] B generated by I is the image of I ⊗[R] B -/
```
Comment (kbuzzard) [inline Mathlib/LinearAlgebra/TensorProduct/RightExactness.lean:434]:
```suggestion
/-- The ideal of `A ⊗[R] B` generated by `I` is the image of `I ⊗[R] B`. -/
```
I think the backticks make a (positive) difference in the API docs; there are several more of these below which probably should also be added.

File: Mathlib/LinearAlgebra/TensorProduct/RightExactness.lean [hunk 28]
```diff
@@ -0,0 +1,648 @@
...
+    rintro x ⟨b, hb, rfl⟩
+    simp only [Algebra.TensorProduct.includeRight_apply, Submodule.coe_set_mk,
+      AddSubmonoid.coe_set_mk, AddSubsemigroup.coe_set_mk, SetLike.mem_coe, LinearMap.mem_range]
+    use 1 ⊗ₜ[R] ⟨b, hb⟩
+    rfl
+
+/-- The ideal of A ⊗[R] B generated by I is the image of A ⊗[R] I -/
+lemma Algebra.TensorProduct.ideal_map_includeRight_carrier
+    {R : Type _} [CommSemiring R]
+    {A B : Type _} [Semiring A] [Semiring B] [Algebra R A] [Algebra R B]
```
Comment (kbuzzard) [inline Mathlib/LinearAlgebra/TensorProduct/RightExactness.lean:575]: I can never remember whether we're supposed to be using `Type*` or `Type _` nowadays, but I suspect we're not supposed to be using both. I think it's `Type*` right?

File: Mathlib/LinearAlgebra/TensorProduct/RightExactness.lean [hunk 29]
```diff
@@ -0,0 +1,648 @@
...
+
+/-- If f and g are surjective morphisms of algebras,
+  then the kernel of f ⊗ g is generated by the kernels of f and g -/
+theorem Algebra.TensorProduct.map_ker (hf : Function.Surjective f) (hg : Function.Surjective g) :
+    RingHom.ker (map f g) =
+      (RingHom.ker f).map (Algebra.TensorProduct.includeLeft : A →ₐ[R] A ⊗[R] C) ⊔
+        (RingHom.ker g).map (Algebra.TensorProduct.includeRight : C →ₐ[R] A ⊗[R] C) := by
+  -- rewrite map f g as the composition of two maps
+  have : map f g = (map f (AlgHom.id R D)).comp (map (AlgHom.id R A) g)  := by
+    exact ext rfl rfl
```
Comment (kbuzzard) [inline Mathlib/LinearAlgebra/TensorProduct/RightExactness.lean:632]:
```suggestion
  have : map f g = (map f (AlgHom.id R D)).comp (map (AlgHom.id R A) g) := ext rfl rfl
```

**Review by kbuzzard — APPROVED** [review]
This looks very nice to me. I've left a bunch of comments but mathematically this looks fine.

File: Mathlib/LinearAlgebra/TensorProduct/RightExactness.lean (hunk 26 above)
Comment (AntoineChambert-Loir) [reply Mathlib/LinearAlgebra/TensorProduct/RightExactness.lean:415]: Actually, this was not morse code, but me playing with the various dots that are all different to Lean…
I'll remove that line…

File: Mathlib/LinearAlgebra/TensorProduct/RightExactness.lean (hunk 23 above)
Comment (AntoineChambert-Loir) [reply Mathlib/LinearAlgebra/TensorProduct/RightExactness.lean:114]: It would be good practice to keep the same order throughout.
I will try to deduce `rTensor` from `lTensor`. This may be not so nice, though, if I need to require more module structures than the plain one. I'll see.

File: Mathlib/LinearAlgebra/TensorProduct/RightExactness.lean (hunk 28 above)
Comment (AntoineChambert-Loir) [reply Mathlib/LinearAlgebra/TensorProduct/RightExactness.lean:575]: `Type*` but when I wrote this, it was in the middle of `Type*` being promoted.

File: Mathlib/LinearAlgebra/TensorProduct/RightExactness.lean (hunk 23 above)
Comment (AntoineChambert-Loir) [reply Mathlib/LinearAlgebra/TensorProduct/RightExactness.lean:114]: Regarding your suggestion of deducing one from another : 
* I defined `TensorProduct.flip` and wrote few lemmas about it 
* That allows a quick proof for surjectivity for `lTensor` given that of `rTensor`  and (hopefully, to come) a quick proof of exactness for `lTensor` from that of `rTensor`.
However, the proof of exactness gives additional results that explicitely compute some quotients, and I wonder whether this shouldn't be retained. If so, it would be bizarre that they have different definitions, but maybe not. So I leave this open for the moment.

File: Mathlib/LinearAlgebra/TensorProduct/RightExactness.lean [hunk 30]
```diff
@@ -0,0 +1,648 @@
...
+Authors: Antoine Chambetr-Loir
+-/
+
+import Mathlib.LinearAlgebra.TensorProduct
+import Mathlib.LinearAlgebra.Quotient
+
+import Mathlib.RingTheory.TensorProduct
+import Mathlib.LinearAlgebra.TensorProduct.Tower
+import Mathlib.RingTheory.Ideal.QuotientOperations
+import Mathlib.Algebra.Algebra.Subalgebra.Basic
```
[the remark this answers is not in the document]
Comment (AntoineChambert-Loir) [reply Mathlib/LinearAlgebra/TensorProduct/RightExactness.lean:13]: OK.

File: Mathlib/LinearAlgebra/TensorProduct/RightExactness.lean (hunk 20 above)
Comment (AntoineChambert-Loir) [reply Mathlib/LinearAlgebra/TensorProduct/RightExactness.lean:237]: Let's not take risks. What is advised then ?

File: Mathlib/LinearAlgebra/TensorProduct/RightExactness.lean (hunk 23 above)
Comment (eric-wieser) [reply Mathlib/LinearAlgebra/TensorProduct/RightExactness.lean:114]: What was the statement of your `TensorProduct.flip`?

File: Mathlib/LinearAlgebra/TensorProduct/RightExactness.lean [hunk 31]
```diff
@@ -0,0 +1,671 @@
...
+  TensorProduct.lift (LinearMap.flip (TensorProduct.mk  R N M))
+
+lemma TensorProduct.flip_flip_eq :
+    (TensorProduct.flip : N ⊗[R] M →ₗ[R] M ⊗[R] N).comp TensorProduct.flip = LinearMap.id := by
+  unfold TensorProduct.flip
+  apply TensorProduct.ext'
+  intro x y
+  rfl
+
+def TensorProduct.flipEquiv : M ⊗[R] N ≃ₗ[R] N ⊗[R] M := {
```
Comment (eric-wieser) [inline Mathlib/LinearAlgebra/TensorProduct/RightExactness.lean:70]: This already exists as `TensorProduct.comm`

Comment (AntoineChambert-Loir) [reply Mathlib/LinearAlgebra/TensorProduct/RightExactness.lean:70]: Cool! I'll use that then.

File: Mathlib/LinearAlgebra/TensorProduct.lean [hunk 32]
```diff
@@ -681,6 +681,10 @@ theorem comm_symm_tmul (m : M) (n : N) : (TensorProduct.comm R M N).symm (n ⊗
   rfl
 #align tensor_product.comm_symm_tmul TensorProduct.comm_symm_tmul
 
+lemma lift_comp_comm_eq  {f : M →ₗ[R] N →ₗ[R] P} :
+    (lift f).comp (TensorProduct.comm R N M).toLinearMap =
```
Comment (eric-wieser) [inline Mathlib/LinearAlgebra/TensorProduct.lean:685]: I suspect `toLinearMap` is no longer the simp-normal form, and the preferred spelling uses a coercion instead. I suspect it needs a type situation, but
```suggestion
    lift f ∘ₗ TensorProduct.comm R N M =
```

Comment (AntoineChambert-Loir) [reply Mathlib/LinearAlgebra/TensorProduct.lean]: `simp`could made no progress on the proof of the lemma;
was it enough to assume it was in simp normal form?
Anyway I made the change.

File: Mathlib/LinearAlgebra/TensorProduct/RightExactness.lean [hunk 33]
```diff
@@ -0,0 +1,648 @@
...
+
+lemma rTensor.inverse_ofRightInverse_apply
+    {h : P → N} (hgh : Function.RightInverse h g) (y : N ⊗[R] Q) :
+    (rTensor.inverse_ofRightInverse Q hfg hgh) ((rTensor Q g) y) =
+      Submodule.Quotient.mk (p := LinearMap.range (rTensor Q f)) y := by
+  simp only [← LinearMap.comp_apply, ← Submodule.mkQ_apply]
+  rw [exact_iff] at hfg
+  apply LinearMap.congr_fun
+  apply TensorProduct.ext'
+  intro n q
```
[the remark this answers is not in the document]
Comment (AntoineChambert-Loir) [reply Mathlib/LinearAlgebra/TensorProduct/RightExactness.lean:169]: I can comply, but do you really find this more legible?

[the remark this answers is not in the document]
Comment (eric-wieser) [reply Mathlib/LinearAlgebra/TensorProduct/RightExactness.lean:169]: If you do take Kevin's suggestion, it should be `refine`.

Better would be `attribute [ext] Tensor product.ext` then you can just use `ext n q` here.

File: Mathlib/LinearAlgebra/TensorProduct/RightExactness.lean (hunk 20 above)
Comment (eric-wieser) [reply Mathlib/LinearAlgebra/TensorProduct/RightExactness.lean:202]: I wouldn't worry about it for `def`s. It matters most for `instance`.

**Comment by AntoineChambert-Loir** [comment]
I attempted to give definitions for `lTensor` and use `TensorProduct.comm` to get the other ones.
I am not sure the result is better. This could make the API slightly dissymmetric (unless one hides the definitions).
Also : there are coercion issues, because a LinearEquiv is not a LinearMap, so that some `rw` lemmas do not apply, etc.
@jcommelin @kbuzzard can you tell me what you think I should do?

File: Mathlib/LinearAlgebra/TensorProduct/RightExactness.lean [hunk 34]
```diff
@@ -290,11 +290,24 @@ lemma rTensor.equiv'_apply_tmul (n : N) (q : Q) :
     comm_tmul]
   rfl
 
+lemma rTensor.inverse_comp_rTensor'
+        {h : P → N} (hgh : Function.RightInverse h g) :
+    (rTensor.equiv_ofRightInverse' Q hfg hgh).symm ∘ (rTensor Q g) =
```
Comment (eric-wieser) [inline Mathlib/LinearAlgebra/TensorProduct/RightExactness.lean:295]: I think composition via `LinearMap.comp` would be better here.

File: Mathlib/LinearAlgebra/TensorProduct/RightExactness.lean (hunk 19 above)
Comment (AntoineChambert-Loir) [reply Mathlib/LinearAlgebra/TensorProduct/RightExactness.lean]: Adjusted

**Comment by AntoineChambert-Loir** [comment]
I believe I have followed all suggestions you made me.
After the #exit, there are a few lemmas about TensorProduct.comm 
which I may simply drop, or turn into something potentially useful, while trivial to rewrite if needed.
(Conjugating lTensor something with TensorProduct.comm gives rTensor, etc.)

**Comment by AntoineChambert-Loir** [comment]
One final question : at a few points (line 550, for example), I need to add an explicit `have` which is proved by `rfl`, but is needed for another `rw`.  
Is there a better way to achieve the same result?

File: Mathlib/LinearAlgebra/TensorProduct.lean [hunk 35]
```diff
@@ -681,6 +681,9 @@ theorem comm_symm_tmul (m : M) (n : N) : (TensorProduct.comm R M N).symm (n ⊗
   rfl
 #align tensor_product.comm_symm_tmul TensorProduct.comm_symm_tmul
 
+lemma lift_comp_comm_eq  {f : M →ₗ[R] N →ₗ[R] P} :
+    (lift f) ∘ₗ (TensorProduct.comm R N M) = lift f.flip := by
+  exact ext rfl
```
Comment (eric-wieser) [inline Mathlib/LinearAlgebra/TensorProduct.lean:686]: Do you need the `by exact`?
```suggestion
lemma lift_comp_comm_eq (f : M →ₗ[R] N →ₗ[R] P) :
    lift f ∘ₗ TensorProduct.comm R N M = lift f.flip :=
  ext rfl
```
(also `f` should be explicit)

Comment (AntoineChambert-Loir) [reply Mathlib/LinearAlgebra/TensorProduct.lean]: No, I don't need it. I followed your suggestion and removed a few other "by exact"

**Comment by AntoineChambert-Loir** [comment]
There was a merge conflict in Mathlib.lean.
I added Mathlib.LinearAlgebra.TensorProduct.RightExactness at the (hopefully) correct line.

**Comment by riccardobrasca** [comment]
Do you think it is possible to split the PR?

File: Mathlib/LinearAlgebra/TensorProduct.lean [hunk 36]
```diff
@@ -1016,6 +1025,16 @@ theorem rTensor_tmul (m : M) (n : N) : f.rTensor M (n ⊗ₜ m) = f n ⊗ₜ m :
   rfl
 #align linear_map.rtensor_tmul LinearMap.rTensor_tmul
 
+lemma comm_comp_rTensor_comp_comm_eq {g : N →ₗ[R] P} :
+    (TensorProduct.comm R P Q) ∘ₗ (rTensor Q g) ∘ₗ (TensorProduct.comm R Q N) =
+      lTensor Q g :=
+  TensorProduct.ext rfl
+
+lemma comm_comp_lTensor_comp_comm_eq {g : N →ₗ[R] P} :
+    (TensorProduct.comm R Q P) ∘ₗ (lTensor Q g) ∘ₗ (TensorProduct.comm R N Q) =
```
Comment (eric-wieser) [inline Mathlib/LinearAlgebra/TensorProduct.lean:1034]: a nit: we generally don't write `∘ₗ` (or indeed any operator) with parens around its operands
```suggestion
    TensorProduct.comm R Q P ∘ₗ lTensor Q g ∘ₗ TensorProduct.comm R N Q =
```

**Comment by AntoineChambert-Loir** [comment]
> Do you think it is possible to split the PR?

Yes and no : 
Yes, because it can be naturally decomposed into two PRs, one for modules and the other for algebras ;
No, because I don't understand enough about git to delegate something to a subsequent PR…

File: Mathlib/LinearAlgebra/TensorProduct.lean (hunk 36 above)
Comment (AntoineChambert-Loir) [reply Mathlib/LinearAlgebra/TensorProduct.lean]: OK

**Comment by eric-wieser** [comment]
The lowest-tech version of splitting a PR is to simply have it open on github in one window, and copy over the pieces one at a time that you want to have in the earlier half of the PR.

File: Mathlib/LinearAlgebra/TensorProduct.lean [hunk 37]
```diff
@@ -783,6 +791,7 @@ theorem lift_comp_map (i : P →ₗ[R] Q →ₗ[R] Q') (f : M →ₗ[R] P) (g :
   ext' fun _ _ => rfl
 #align tensor_product.lift_comp_map TensorProduct.lift_comp_map
 
+
```
Comment (eric-wieser) [inline Mathlib/LinearAlgebra/TensorProduct.lean:794]:
```suggestion
```

**Comment by riccardobrasca** [comment]
> > Do you think it is possible to split the PR?
> 
> Yes and no : Yes, because it can be naturally decomposed into two PRs, one for modules and the other for algebras ; No, because I don't understand enough about git to delegate something to a subsequent PR…

You can just open a new PR with only the module stuff (or the algebra stuff, whatever makes more sense to start with) and ignore this one. When the other one gets accepted just merge master into this one. Of course this is not the perfect solution since the modifications done in the other PR will probably be in conflict with this one, but this is usually not a big deal.

If you are interested in learning the right way to do it I guess internet is full of explanations, but I found [this](https://web.archive.org/web/20210116050503/https://unhashable.com/stacked-pull-requests-keeping-github-diffs-small/) one, suggested by Johan, very clear.

**Comment by AntoineChambert-Loir** [comment]
@riccardobrasca I removed the case of algebras from this PR.

File: Mathlib/Algebra/Exact.lean [hunk 38]
```diff
@@ -0,0 +1,67 @@
...
+
+* For two maps `f : M → N` and `g : N → P`, with `One P`,
+`Function.Exact f g` says that `Set.range f = Set.preimage {1}
+
+* For linear maps `f : M →ₗ[R] N`  and `g : N →ₗ[R] P`,
+`Exact f g` says that `range f = ker g``
+
+## TODO :
+
+* add the cases of `AddMonoidHom`
```
Comment (riccardobrasca) [inline Mathlib/Algebra/Exact.lean:23]: The real point is probably to teach `to_additive` to handle this.

File: Mathlib/LinearAlgebra/TensorProduct.lean [hunk 39]
```diff
@@ -747,6 +750,11 @@ theorem map_tmul (f : M →ₗ[R] P) (g : N →ₗ[R] Q) (m : M) (n : N) : map f
   rfl
 #align tensor_product.map_tmul TensorProduct.map_tmul
 
+lemma map_comp_comm_eq {f : M →ₗ[R] P} {g : N →ₗ[R] Q} :
```
Comment (riccardobrasca) [inline Mathlib/LinearAlgebra/TensorProduct.lean:753]:
```suggestion
lemma map_comp_comm_eq (f : M →ₗ[R] P) (g : N →ₗ[R] Q) :
```

File: Mathlib/LinearAlgebra/TensorProduct.lean [hunk 40]
```diff
@@ -1016,6 +1024,16 @@ theorem rTensor_tmul (m : M) (n : N) : f.rTensor M (n ⊗ₜ m) = f n ⊗ₜ m :
   rfl
 #align linear_map.rtensor_tmul LinearMap.rTensor_tmul
 
+lemma comm_comp_rTensor_comp_comm_eq {g : N →ₗ[R] P} :
```
Comment (riccardobrasca) [inline Mathlib/LinearAlgebra/TensorProduct.lean:1027]:
```suggestion
lemma comm_comp_rTensor_comp_comm_eq (g : N →ₗ[R] P) :
```

File: Mathlib/LinearAlgebra/TensorProduct.lean [hunk 41]
```diff
@@ -1016,6 +1024,16 @@ theorem rTensor_tmul (m : M) (n : N) : f.rTensor M (n ⊗ₜ m) = f n ⊗ₜ m :
...
+    TensorProduct.comm R P Q ∘ₗ rTensor Q g ∘ₗ TensorProduct.comm R Q N =
+      lTensor Q g :=
+  TensorProduct.ext rfl
+
+lemma comm_comp_lTensor_comp_comm_eq {g : N →ₗ[R] P} :
```
Comment (riccardobrasca) [inline Mathlib/LinearAlgebra/TensorProduct.lean:1032]:
```suggestion
lemma comm_comp_lTensor_comp_comm_eq (g : N →ₗ[R] P) :
```

File: Mathlib/LinearAlgebra/TensorProduct/RightExactness.lean [hunk 42]
```diff
@@ -0,0 +1,358 @@
...
+Copyright (c) 2023 Antoine Chambert-Loir. All rights reserved.
+Released under Apache 2.0 license as described in the file LICENSE.
+Authors: Antoine Chambetr-Loir
+-/
+
+import Mathlib.Algebra.Exact
+import Mathlib.RingTheory.TensorProduct
+
+/-! # Right exactness properties of tensor product
+* `TensorProduct.rTensor_exact` says that one can tensor a short exact sequence on the right,
```
Comment (riccardobrasca) [inline Mathlib/LinearAlgebra/TensorProduct/RightExactness.lean:11]: Maybe mention that (of course) we are talking about right exactness.

File: Mathlib/LinearAlgebra/TensorProduct/RightExactness.lean [hunk 43]
```diff
@@ -0,0 +1,358 @@
...
+
+variable (hfg : Exact f g) (hg : Function.Surjective g)
+
+
+/-- The direct map in `lTensor.equiv` -/
+def lTensor.toFun :
+  Q ⊗[R] N ⧸ LinearMap.range (lTensor Q f) →ₗ[R] Q ⊗[R] P := by
+  apply Submodule.liftQ _ (lTensor Q g)
+  rw [LinearMap.range_le_iff_comap, ← LinearMap.ker_comp, ← lTensor_comp,
+    hfg.linearMap_comp_eq_zero, lTensor_zero, ker_zero]
```
Comment (riccardobrasca) [inline Mathlib/LinearAlgebra/TensorProduct/RightExactness.lean:127]:
```suggestion
def lTensor.toFun :
  Q ⊗[R] N ⧸ LinearMap.range (lTensor Q f) →ₗ[R] Q ⊗[R] P :=
    Submodule.liftQ _ (lTensor Q g) <| by
      rw [LinearMap.range_le_iff_comap, ← LinearMap.ker_comp, ← lTensor_comp,
        hfg.linearMap_comp_eq_zero, lTensor_zero, ker_zero]
```
We usually avoid tactic mode the define data.

File: Mathlib/LinearAlgebra/TensorProduct/RightExactness.lean [hunk 44]
```diff
@@ -0,0 +1,358 @@
...
+        map_add' := fun p p' => LinearMap.ext <| fun q => (Submodule.Quotient.eq _).mpr ?_
+        map_smul' := fun r p => LinearMap.ext <| fun q => (Submodule.Quotient.eq _).mpr ?_ }
+  · change q ⊗ₜ[R] (h (p + p')) - (q ⊗ₜ[R] (h p) + q ⊗ₜ[R] (h p')) ∈ range (lTensor Q f)
+    rw [← TensorProduct.tmul_add, ← TensorProduct.tmul_sub]
+    apply le_comap_range_lTensor f
+    simp only [← hfg, mem_ker, map_sub, map_add, hgh _, sub_self]
+  · change q ⊗ₜ[R] (h (r • p)) - r • q ⊗ₜ[R] (h p) ∈ range (lTensor Q f)
+    rw [← TensorProduct.tmul_smul, ← TensorProduct.tmul_sub]
+    apply le_comap_range_lTensor f
+    simp only [← hfg, mem_ker, map_sub, map_smul, hgh _, sub_self]
```
Comment (riccardobrasca) [inline Mathlib/LinearAlgebra/TensorProduct/RightExactness.lean:146]:
```suggestion
def lTensor.inverse_of_rightInverse {h : P → N} (hgh : Function.RightInverse h g) :
    Q ⊗[R] P →ₗ[R] Q ⊗[R] N ⧸ LinearMap.range (lTensor Q f) :=
  TensorProduct.lift <| LinearMap.flip <|
    { toFun := fun p ↦ Submodule.mkQ _ ∘ₗ ((TensorProduct.mk R _ _).flip (h p))
      map_add' := fun p p' => LinearMap.ext <| fun q => (Submodule.Quotient.eq _).mpr <| by
        change q ⊗ₜ[R] (h (p + p')) - (q ⊗ₜ[R] (h p) + q ⊗ₜ[R] (h p')) ∈ range (lTensor Q f)
        rw [← TensorProduct.tmul_add, ← TensorProduct.tmul_sub]  
        apply le_comap_range_lTensor f
        simp only [← exact_iff.1 hfg, mem_ker, map_sub, map_add, hgh _, sub_self]
      map_smul' := fun r p => LinearMap.ext <| fun q => (Submodule.Quotient.eq _).mpr <| by
        change q ⊗ₜ[R] (h (r • p)) - r • q ⊗ₜ[R] (h p) ∈ range (lTensor Q f)
        rw [← TensorProduct.tmul_smul, ← TensorProduct.tmul_sub]
        apply le_comap_range_lTensor f
        simp only [← exact_iff.1 hfg, mem_ker, map_sub, map_smul, hgh _, sub_self] }
```
As above.

File: Mathlib/LinearAlgebra/TensorProduct/RightExactness.lean [hunk 45]
```diff
@@ -0,0 +1,358 @@
...
+  simp only [← LinearMap.comp_apply, ← Submodule.mkQ_apply]
+  rw [exact_iff] at hfg
+  apply LinearMap.congr_fun
+  apply TensorProduct.ext'
+  intro n q
+  simp only [coe_comp, Function.comp_apply, lTensor_tmul, Submodule.mkQ_apply]
+  simp only [lTensor.inverse_of_rightInverse]
+  simp only [TensorProduct.lift.tmul, coe_mk, AddHom.coe_mk, mk₂_apply]
+  simp only [flip_apply, coe_mk, AddHom.coe_mk, coe_comp, Function.comp_apply, mk_apply,
+    Submodule.mkQ_apply]
```
Comment (riccardobrasca) [inline Mathlib/LinearAlgebra/TensorProduct/RightExactness.lean:161]:
```suggestion
  simp? [lTensor.inverse_of_rightInverse] says
    simp only [inverse_of_rightInverse, coe_comp, Function.comp_apply, lTensor_tmul, lift.tmul,
      flip_apply, coe_mk, AddHom.coe_mk, mk_apply, Submodule.mkQ_apply]
```
I think this is a good example for the `says` tactic.

File: Mathlib/LinearAlgebra/TensorProduct/RightExactness.lean (hunk 25 above)
Comment (riccardobrasca) [reply Mathlib/LinearAlgebra/TensorProduct/RightExactness.lean:197]: This file seems pretty fast, but CC @eric-wieser @mattrobball

File: Mathlib/LinearAlgebra/TensorProduct/RightExactness.lean [hunk 46]
```diff
@@ -0,0 +1,358 @@
...
+
+/-- Tensoring an exact pair on the left gives an exact pair -/
+theorem lTensor_exact : Exact (lTensor Q f) (lTensor Q g) := by
+  rw [exact_iff]
+  rw [← Submodule.ker_mkQ (p := range (lTensor Q f))]
+  rw [← lTensor.inverse_comp_rTensor Q hfg hg]
+  apply symm
+  apply LinearMap.ker_comp_of_ker_eq_bot
+  rw [LinearMap.ker_eq_bot]
+  exact (lTensor.equiv Q hfg hg).symm.injective
```
Comment (riccardobrasca) [inline Mathlib/LinearAlgebra/TensorProduct/RightExactness.lean:223]:
```suggestion
theorem lTensor_exact : Exact (lTensor Q f) (lTensor Q g) := by
  rw [exact_iff, ← Submodule.ker_mkQ (p := range (lTensor Q f)),
    ← lTensor.inverse_comp_rTensor Q hfg hg]
  apply symm
  apply LinearMap.ker_comp_of_ker_eq_bot
  rw [LinearMap.ker_eq_bot]
  exact (lTensor.equiv Q hfg hg).symm.injective
```

File: Mathlib/LinearAlgebra/TensorProduct/RightExactness.lean [hunk 47]
```diff
@@ -0,0 +1,358 @@
...
+
+/-- Right-exactness of tensor product -/
+lemma lTensor_mkQ (N : Submodule R M) :
+    ker (lTensor Q (N.mkQ)) = range (lTensor Q N.subtype) := by
+  rw [← exact_iff]
+  exact lTensor_exact Q (LinearMap.exact_subtype_mkQ N) (Submodule.mkQ_surjective N)
+
+
+/-- The direct map in `rTensor.equiv` -/
+def rTensor.toFun :
```
Comment (riccardobrasca) [inline Mathlib/LinearAlgebra/TensorProduct/RightExactness.lean:233]: You can write this in term mode as above.

File: Mathlib/LinearAlgebra/TensorProduct/RightExactness.lean [hunk 48]
```diff
@@ -0,0 +1,358 @@
...
+  N ⊗[R] Q ⧸ range (rTensor Q f) →ₗ[R] P ⊗[R] Q := by
+  apply Submodule.liftQ _ (rTensor Q g)
+  rw [range_le_iff_comap, ← ker_comp, ← rTensor_comp,
+    hfg.linearMap_comp_eq_zero, rTensor_zero, ker_zero]
+
+/-- The inverse map in `rTensor.equiv_of_rightInverse` (computably, given a right inverse) -/
+def rTensor.inverse_of_rightInverse {h : P → N} (hgh : Function.RightInverse h g) :
```
Comment (riccardobrasca) [inline Mathlib/LinearAlgebra/TensorProduct/RightExactness.lean:240]: Same.

File: Mathlib/LinearAlgebra/TensorProduct/RightExactness.lean [hunk 49]
```diff
@@ -0,0 +1,358 @@
...
+lemma rTensor.inverse_of_rightInverse_apply
+    {h : P → N} (hgh : Function.RightInverse h g) (y : N ⊗[R] Q) :
+    (rTensor.inverse_of_rightInverse Q hfg hgh) ((rTensor Q g) y) =
+      Submodule.Quotient.mk (p := LinearMap.range (rTensor Q f)) y := by
+  simp only [← LinearMap.comp_apply, ← Submodule.mkQ_apply]
+  rw [exact_iff] at hfg
+  apply LinearMap.congr_fun
+  apply TensorProduct.ext'
+  intro n q
+  simp only [coe_comp, Function.comp_apply, rTensor_tmul, Submodule.mkQ_apply]
```
Comment (riccardobrasca) [inline Mathlib/LinearAlgebra/TensorProduct/RightExactness.lean:266]: You can use `says` as above.

File: Mathlib/LinearAlgebra/TensorProduct/RightExactness.lean [hunk 50]
```diff
@@ -0,0 +1,358 @@
...
+
+/-- Tensoring an exact pair on the right gives an exact pair -/
+theorem rTensor_exact : Exact (rTensor Q f) (rTensor Q g) := by
+  rw [exact_iff]
+  rw [← Submodule.ker_mkQ (p := range (rTensor Q f))]
+  rw [← rTensor.inverse_comp_rTensor Q hfg hg]
+  apply symm
+  apply ker_comp_of_ker_eq_bot
+  rw [ker_eq_bot]
+  exact (rTensor.equiv Q hfg hg).symm.injective
```
Comment (riccardobrasca) [inline Mathlib/LinearAlgebra/TensorProduct/RightExactness.lean:324]:
```suggestion
theorem rTensor_exact : Exact (rTensor Q f) (rTensor Q g) := by
  rw [exact_iff, ← Submodule.ker_mkQ (p := range (rTensor Q f)),
    ← rTensor.inverse_comp_rTensor Q hfg hg]
  apply symm
  apply ker_comp_of_ker_eq_bot
  rw [ker_eq_bot]
  exact (rTensor.equiv Q hfg hg).symm.injective
```

File: Mathlib/LinearAlgebra/TensorProduct/RightExactness.lean [hunk 51]
```diff
@@ -0,0 +1,358 @@
...
+open TensorProduct LinearMap
+
+section Semiring
+
+variable {R : Type*} [CommSemiring R]
+variable {M N P P' Q: Type*}
+  [AddCommMonoid M] [AddCommMonoid N] [AddCommGroup P] [AddCommMonoid P'] [AddCommMonoid Q]
+  [Module R M] [Module R N] [Module R P] [Module R P'] [Module R Q]
+
+variable {f : M →ₗ[R] N} (g : N →ₗ[R] P)
```
Comment (riccardobrasca) [inline Mathlib/LinearAlgebra/TensorProduct/RightExactness.lean:51]:
```suggestion
variable {R : Type*} [CommSemiring R] {M N P P' Q: Type*}
  [AddCommMonoid M] [AddCommMonoid N] [AddCommGroup P] [AddCommMonoid P'] [AddCommMonoid Q]
  [Module R M] [Module R N] [Module R P] [Module R P'] [Module R Q]
  {f : M →ₗ[R] N} (g : N →ₗ[R] P)
```
Looks nicer to me, but not so important. (If you change this you can do the same everywhere else).

File: Mathlib/LinearAlgebra/TensorProduct/RightExactness.lean [hunk 52]
```diff
@@ -0,0 +1,358 @@
...
+  rw [ker_comp]
+  rw [← Exact.linearMap_ker_eq (rTensor_exact N' hfg hg)]
+  rw [← Submodule.comap_map_eq]
+  apply congr_arg₂ _ rfl
+  rw [range_eq_map, ← Submodule.map_comp, rTensor_comp_lTensor,
+    Submodule.map_top]
+  rw [← lTensor_comp_rTensor, range_eq_map, Submodule.map_comp,
+    Submodule.map_top]
+  rw [range_eq_top.mpr (rTensor.surjective M' hg), Submodule.map_top]
+  rw [Exact.linearMap_ker_eq (lTensor_exact P hfg' hg')]
```
Comment (riccardobrasca) [inline Mathlib/LinearAlgebra/TensorProduct/RightExactness.lean:356]:
```suggestion
theorem TensorProduct.map_ker :
    ker (TensorProduct.map g g') = range (lTensor N f') ⊔ range (rTensor N' f) := by
  rw [← lTensor_comp_rTensor, ker_comp, ← Exact.linearMap_ker_eq (rTensor_exact N' hfg hg),
    ← Submodule.comap_map_eq]
  apply congr_arg₂ _ rfl
  rw [range_eq_map, ← Submodule.map_comp, rTensor_comp_lTensor,
    Submodule.map_top, ← lTensor_comp_rTensor, range_eq_map, Submodule.map_comp,
    Submodule.map_top, range_eq_top.mpr (rTensor.surjective M' hg), Submodule.map_top,
    Exact.linearMap_ker_eq (lTensor_exact P hfg' hg')]
```

**Review by riccardobrasca — APPROVED** [review]

File: Mathlib/LinearAlgebra/TensorProduct/RightExactness.lean [hunk 53]
```diff
@@ -0,0 +1,358 @@
...
+    simp only [AddHom.toFun_eq_coe, coe_toAddHom]
+    obtain ⟨y, rfl⟩ := lTensor.surjective Q (hgh.surjective) z
+    rw [lTensor.inverse_of_rightInverse_apply]
+    simp only [lTensor.toFun, Submodule.liftQ_apply] }
+
+/-- For a surjective `f : N →ₗ[R] P`,
+  the natural equivalence between `Q ⊗ N ⧸ (image of ker f)` to `Q ⊗ P` -/
+noncomputable def lTensor.equiv :
+    ((Q ⊗[R] N) ⧸ (LinearMap.range (lTensor Q f))) ≃ₗ[R] (Q ⊗[R] P) :=
+  lTensor.linearEquiv_of_rightInverse  Q hfg (Function.rightInverse_surjInv hg)
```
Comment (mattrobball) [inline Mathlib/LinearAlgebra/TensorProduct/RightExactness.lean:213]:
```suggestion
  lTensor.linearEquiv_of_rightInverse Q hfg (Function.rightInverse_surjInv hg)
```

File: Mathlib/LinearAlgebra/TensorProduct/RightExactness.lean (hunk 25 above)
Comment (mattrobball) [reply Mathlib/LinearAlgebra/TensorProduct/RightExactness.lean:197]: It think it would be fine performance-wise. But, generally I think the code reads better if, when using an instance of the/a parent structure, that you inline it instead of using `with`. `with` is better for when you break direct inheritance but still have all the fields. 

```suggestion
  { toLinearMap := lTensor.toFun Q hfg
```

File: Mathlib/LinearAlgebra/TensorProduct/RightExactness.lean [hunk 54]
```diff
@@ -0,0 +1,358 @@
...
+
+variable {f : M →ₗ[R] N} {g : N →ₗ[R] P}
+
+variable (Q : Type*) [AddCommGroup Q] [Module R Q]
+
+variable (hfg : Exact f g) (hg : Function.Surjective g)
+
+
+/-- The direct map in `lTensor.equiv` -/
+def lTensor.toFun :
```
Comment (mattrobball) [inline Mathlib/LinearAlgebra/TensorProduct/RightExactness.lean:123]: How should I think of this name compared to `LinearMap.lTensor.toFun`? @riccardobrasca

File: Mathlib/LinearAlgebra/TensorProduct/RightExactness.lean (hunk 42 above)
Comment (AntoineChambert-Loir) [reply Mathlib/LinearAlgebra/TensorProduct/RightExactness.lean:11]: I elaborated the documentation slightly

File: Mathlib/LinearAlgebra/TensorProduct/RightExactness.lean (hunk 43 above)
Comment (AntoineChambert-Loir) [reply Mathlib/LinearAlgebra/TensorProduct/RightExactness.lean:127]: ok

File: Mathlib/LinearAlgebra/TensorProduct/RightExactness.lean (hunk 54 above)
Comment (AntoineChambert-Loir) [reply Mathlib/LinearAlgebra/TensorProduct/RightExactness.lean:123]: There is no direct relation.
 `LinearMap.lTensor f` is the linear map `Q tensor N -> Q tensor P` associated with a linear map `g : N -> P`.
Here, we want to understand this map `LinearMap.lTensor g` when we know that `g` is surjective and know its kernel : it is surjective (by `lTensor.surjective`) and we compute its kernel in terms of a map `f : M -> N` whose image is the kernel of `g`.

File: Mathlib/LinearAlgebra/TensorProduct/RightExactness.lean (hunk 49 above)
Comment (AntoineChambert-Loir) [reply Mathlib/LinearAlgebra/TensorProduct/RightExactness.lean]: done, but I don't know what the `says` tactic does.

File: Mathlib/LinearAlgebra/TensorProduct/RightExactness.lean (hunk 50 above)
Comment (AntoineChambert-Loir) [reply Mathlib/LinearAlgebra/TensorProduct/RightExactness.lean]: why not, but I'm not convinced. Done, anyway.

**Comment by riccardobrasca** [comment]
There is only [this](https://github.com/leanprover-community/mathlib4/pull/6447#discussion_r1291484918) left and then LGTM, thanks!

bors d+

File: Mathlib/LinearAlgebra/TensorProduct/RightExactness.lean (hunk 13 above)
Comment (AntoineChambert-Loir) [reply Mathlib/LinearAlgebra/TensorProduct/RightExactness.lean]: it works and had been changed accordingly.

Comment (riccardobrasca) [reply Mathlib/LinearAlgebra/TensorProduct/RightExactness.lean]: Thanks, let's merge this!

**Comment by riccardobrasca** [comment]
Thanks!

bors merge

**Comment by riccardobrasca** [comment]
bors is complaining about a linter error.

**Comment by AntoineChambert-Loir** [comment]
Let me correct this at once.

**Comment by riccardobrasca** [comment]
> Let me correct this at once.

I don't understand why CI didn't catch this but bors did...

**Comment by AntoineChambert-Loir** [comment]
Maybe I could post something on Zulip about this?

**Comment by riccardobrasca** [comment]
> > Let me correct this at once.
> 
> I don't understand why CI didn't catch this but bors did...

Ah, it's a new linter, that's probably the reason.

**Comment by riccardobrasca** [comment]
bors merge
